Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pseudoephedrine
 
Attending: ___.
 
Chief Complaint:
GI bleed
 
Major Surgical or Invasive Procedure:
___ colonoscopy

 
History of Present Illness:
___ yo F who presents with bleeding after recent EMR. Pt was
referred for EMR removal of a 1.2 cm polyp in the cecum which 
was
done by Dr. ___ on ___. Pt had two clips placed at the time
to prevent bleeding. 

This morning, at 7 AM she had a bloody bowel movement which
consisted of a cupful of bright blood. This was followed by 4
other BM's which were bloody but of lesser volume. She came to
the ED where she was hemodynamically stable with Hct of 37. She
had rapid prep administered and went for repeat colonoscopy this
afternoon which showed a blood clot at the site of the EMR but 
no
active bleeding. The site was cauterized and an additional clip
was placed for hemostasis. Pt is admitted for monitoring given
prior history of significant bleeding post polypectomy a few
years ago. 

On evaluation after arrival to floor, pt denies abdominal pain 
or
nausea. Had one BM since procedure which was not bloody.
 
Past Medical History:
Asthma - mild intermittent
Hyperlipidemia
Hypothyroidism
Acoustic neuroma
Osteoarthritis
Adrenal cyst
 
Social History:
___
Family History:
No family history of GI illness.
 
Physical Exam:
Admission Physical Exam:
========================
VS - 97.5 161/76 65 18 98 RA 
GEN - NAD, sitting in bed
HEENT - NCAT
NECK - supple
CV - rrr, no r/m/g
RESP - clear bl
ABD - soft, nontender, nondistended, +bs
EXT - no edema
SKIN - no rashes
NEURO - alert and oriented x 3, no focal deficits
PSYCH - calm, appropriate

Discharge Physical Exam:
========================
VS - Reviewed in E flowsheets 
GEN - NAD, sitting in bed
HEENT - NCAT
NECK - supple
CV - rrr, no r/m/g
RESP - clear bl
ABD - soft, nontender, nondistended, +bs
EXT - no edema
SKIN - no rashes
NEURO - alert and oriented x 3, no focal deficits
PSYCH - calm, appropriate

 
Pertinent Results:
Admission Labs:
===============
___ 09:43AM BLOOD WBC-6.8 RBC-4.09 Hgb-12.4 Hct-37.7 MCV-92 
MCH-30.3 MCHC-32.9 RDW-13.1 RDWSD-43.7 Plt ___
___ 09:43AM BLOOD Neuts-67.3 Lymphs-18.7* Monos-9.0 Eos-3.1 
Baso-1.6* Im ___ AbsNeut-4.54 AbsLymp-1.26 AbsMono-0.61 
AbsEos-0.21 AbsBaso-0.11*
___ 09:43AM BLOOD ___ PTT-30.2 ___
___ 09:43AM BLOOD Glucose-90 UreaN-22* Creat-0.9 Na-140 
K-5.0 Cl-104 HCO3-22 AnGap-14
___ 09:50AM BLOOD Lactate-1.4

Imaging:
========
Colonoscopy ___: 
A single sessile 12 mm polyp of benign appearance was found in
the cecum. 5 cc.isotonic saline solution injection was applied
for Saline pillow with success. A mucosal resection was 
performed
and the lesion was totally removed using a snare. Two endoclips
were successfully applied for the purpose of hemostasis.  
Multiple diverticula were seen in the sigmoid colon and
descending colon. Diverticulosis appeared to be of moderate
severity.  

Colonoscopy ___: 
Two clips were seen at the EMR site in the cecum. A blood clot
was seen at the EMR site. One endoclip was successfully applied
for the purpose of hemostasis. A gold probe was applied for
hemostasis successfully.

Discharge Labs:
===============
___ 06:10AM BLOOD WBC-6.0 RBC-3.71* Hgb-11.2 Hct-33.4* 
MCV-90 MCH-30.2 MCHC-33.5 RDW-12.9 RDWSD-42.3 Plt ___
___ 06:10AM BLOOD Glucose-82 UreaN-11 Creat-0.7 Na-147* 
K-4.3 Cl-107 HCO3-27 AnGap-13
___ 06:10AM BLOOD Calcium-8.9 Phos-4.0 Mg-2.___ with PMH asthma, hypothyroidism, and hyperlipidemia who was 
admitted for bleeding post EMR. She underwent repeat colonoscopy 
which revealed a blood clot at the EMR site. Additional clip was 
placed. She was observed overnight without evidence of any 
further bleeding. Hg remained overall stable. She had no 
abdominal pain or other abnormal symptoms. She was tolerating a 
regular diet at time of discharge.

Chronic Issues:

# Hypothyroidism: continued home synthroid

# HLD: continued home simvastatin 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 10 mg PO QPM 
2. Aspirin 81 mg PO DAILY 
3. Multivitamins W/minerals 1 TAB PO DAILY 
4. Loratadine 10 mg PO DAILY 
5. Levothyroxine Sodium 112 mcg PO DAILY 
6. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Levothyroxine Sodium 112 mcg PO DAILY  
3.  Loratadine 10 mg PO DAILY  
4.  Multivitamins W/minerals 1 TAB PO DAILY  
5.  Simvastatin 10 mg PO QPM  
6.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Post colonoscopy bleeding

Secondary:
Hypothyroidism
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came in with bleeding after your colonoscopy. The GI doctors 
placed ___ and the bleeding stopped. We watched you overnight 
and feel that it is now safe for you to go home. Please call 
your GI doctor or return to the ED if you develop any further 
bleeding.

It was a pleasure taking care of you and we are happy that 
you're feeling better!
 
Followup Instructions:
___